US06218397B1
5Amino-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carboxamide.
To a cooled concentrated sulfuric acid (10 ml) was added portionwise 5-amino-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carbonitrile (4.000 g, 13.9 mmol) over a period of 45 minutes. The reaction mixture was allowed to stir at room temperature for 1 hour after addition. The mixture was poured over ice with stirring and the solution was neutralized with 15% NaOH in ice-bath. Precipitate formed and was filtered to give 3.57 g of yellow solid. 1H NMR (CDCl3): 5.3(brs,2H), 5.6(brs,2H), 7.5(s,2H), 7.7(s,1H)ppm.

reactant | 5-amino-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carbonitrile | 13.9 mmol, 4.000 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N | C10H5Cl3N4
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 5Amino-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carboxamide | 3.57 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(=O)N | C10H7Cl3N4O
